US06174884B1
6-(3,4-Dichloro-benzyl)-1-(4-decyl)-3-propyl-1,5-dihydro-pyrazolo[3,4-d]pyrimidin-4-one
10 mg (0.019 mmol) of 5-amino-3-propyl-1-(4-decyl)-1H-pyrazole-4-carboxamide and 20 mg (0.091 mmol) of methyl 3,4-dichlorophenylacetate are refluxed for 6 hours in 0.3 ml of a 0.5M ethanolic sodium ethoxide solution. After dichloromethane and saturated aqueous sodium hydrogen carbonate solution have been added, the phases are separated. Purification by chromatography gives 5 mg (48%) of a solid, Rf=0.70 (dichloromethane/methanol=15:1).

reactant | 5-amino-3-propyl-1-(4-decyl)-1H-pyrazole-4-carboxamide | 0.019 mmol, 10 mg | NC1=C(C(=NN1C(CCC)CCCCCC)CCC)C(=O)N | C17H32N4O
reactant | methyl 3,4-dichlorophenylacetate | 0.091 mmol, 20 mg | ClC=1C=C(C=CC1Cl)CC(=O)OC | C9H8Cl2O2
reactant | sodium ethoxide | 0.5M | [O-]CC.[Na+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | ClCCl | CH2Cl2
product | 6-(3,4-Dichloro-benzyl)-1-(4-decyl)-3-propyl-1,5-dihydro-pyrazolo[3,4-d]pyrimidin-4-one | 5 mg, 48% | ClC=1C=C(CC=2NC(C3=C(N2)N(N=C3CCC)C(CCC)CCCCCC)=O)C=CC1Cl | C25H34Cl2N4O
